US06288061B1
Ethyl 2-hydroxyimino-3-(4-methoxyphenyl)-3-oxopropionate (10.0 g) and 1-aminomethylnaphthalene (7.5 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-methoxyphenyl)-2-(l-naphthyl)imidazole-4-carboxylate (5.2 g). 5.0 g therefrom was dissolved in ethyl alcohol (300 ml), and 1 M sodium hydroxide solution (50 ml) was added. The mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 5-(4-methoxyphenyl)-2-(1-naphthyl)imidazole-4-carboxyic acid (3.9 g), melting point 178° C. (decomposition).

reactant | Ethyl 2-hydroxyimino-3-(4-methoxyphenyl)-3-oxopropionate | 10.0 g | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)OC | C12H13NO5
reactant | 1-aminomethylnaphthalene | 7.5 g | NCC1=CC=CC2=CC=CC=C12 | C11H11N
product | ethyl 5-(4-methoxyphenyl)-2-(l-naphthyl)imidazole-4-carboxylate | 5.2 g | COC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=CC2=CC=CC=C12)C(=O)OCC | C23H20N2O3
